US08486996B2
3-Amino-7-methyl-2-(2-ethoxybenzoyl)-benzofuran
A suspension of potassium carbonate (1.24 g, 8.9 mmol), 2-hydroxy-3-methylbenzonitrile (0.3 g, 2.25 mmol) and ω-bromo-2-ethoxyacetophenone (0.55 g, 2.25 mmol) in dry DMF (10 ml) is stirred at 60° C. for 20 h. The reaction mixture is diluted with ethyl acetate and the resulting solution is washed repeatedly with brine. Drying of the solution over sodium sulfate, filtering and evaporation of the solvent leaves the crude product. Purification on silicagel yields the title compound in pure form. (CDCl3, 400 MHz): 7.53 (d, 2H); 7.41 (m, 2H); 7.14-6.99 (m, 3H); 5.79 (bs, 2H); 4.09 (q, 2H); 2.36 (s, 3H); 1.17 (t, 3H).

reactant | potassium carbonate | 8.9 mmol, 1.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-hydroxy-3-methylbenzonitrile | 2.25 mmol, 0.3 g | OC1=C(C#N)C=CC=C1C | C8H7NO
reactant | ω-bromo-2-ethoxyacetophenone | 2.25 mmol, 0.55 g | BrC(C(=O)C1=CC=CC=C1)OCC | C10H11BrO2
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Amino-7-methyl-2-(2-ethoxybenzoyl)-benzofuran | NC1=C(OC2=C1C=CC=C2C)C(C2=C(C=CC=C2)OCC)=O | C18H17NO3
